US05731340
6.6 g of N-Boc-glycine and 15.6 g of BOP are successively added to 100 ml of dimethylformamide and then, at 0° C., 14 ml of triethylamine are added dropwise. The mixture is left for 20 minutes at 0° C. and 6.7 g of 2,6-dimethoxy-4-methylaniline hydrochloride are then added portionwise. The reaction mixture is left at room temperature for 15 hours. 400 ml of ethyl acetate are added to the reaction mixture and the organic phase is successively washed with 3×200 ml of water, with a 1N aqueous sodium hydroxide solution and then with water. The organic phase is dried over anhydrous sodium sulphate. Evaporation of the solvent leaves a semi-crystalline residue which is solidified in diisopropyl ether to provide N-tert-butyloxycarbonyl-[(2,6-dimethoxy-4-methylphenyl)carbamoyl]methylamine, in the form of white crystals; M.p.=146° C.; Yield: 96%.

reactant | N-Boc-glycine | 6.6 g | C(=O)(OC(C)(C)C)NCC(=O)O | C7H13NO4
reactant | BOP | 15.6 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
reactant | 2,6-dimethoxy-4-methylaniline hydrochloride | 6.7 g | Cl.COC1=C(N)C(=CC(=C1)C)OC
solvent | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 14 ml | C(C)N(CC)CC | C6H15N
product | N-tert-butyloxycarbonyl-[(2,6-dimethoxy-4-methylphenyl)carbamoyl]methylamine | Yield: 96% | C(C)(C)(C)OC(=O)NCC(NC1=C(C=C(C=C1OC)C)OC)=O | C16H24N2O5
